US07560586B2
3-{3-[[2-Chloro-3-(trifluoromethyl)benzyl](2,2-diphenylethyl)amino]-propoxy}-4-methyl-benzoic acid hydrochloride salt
To a stirring solution of 3-hydroxy-4-methyl-benzoic acid methyl ester (102 mg, 0.61 mmol) in anhydrous toluene (5 mL) was added N-(2,2-diphenylethyl)-N-(3-hydroxy-propyl)-N-(2-chloro-3-trifluoromethyl-benzyl)amine (211 mg, 0.47 mmol). Polymer bound triphenylphosphine (250 mg, 0.75 mmol, 3 mmol/g, Fluka Chemie) was then added, and the mixture stirred for 15 minutes. The reaction mixture was then cooled to 0° C. and diisopropylazodicarboxylate (115 ul, 0.58 mmol) was added in a dropwise fashion. After stirring at room temperature overnight, the crude reaction mixture was filtered and the resulting solid was washed with toluene. The filtrate was concentrated and the crude product was purified by preparative HPLC (TMC CombiPrep PDS, 75×30 mm, 25 mL/min, acetonitrile: H2O, UV detection at 254 nm) to give 150 mg (54% yield) of the title compound as a viscous oil. MS(ESI) 596.0(M+).

reactant | 3-hydroxy-4-methyl-benzoic acid methyl ester | 0.61 mmol, 102 mg | COC(C1=CC(=C(C=C1)C)O)=O | C9H10O3
reactant | N-(2,2-diphenylethyl)-N-(3-hydroxy-propyl)-N-(2-chloro-3-trifluoromethyl-benzyl)amine | 0.47 mmol, 211 mg | C1(=CC=CC=C1)C(CN(CC1=C(C(=CC=C1)C(F)(F)F)Cl)CCCO)C1=CC=CC=C1 | C25H25ClF3NO
reactant | triphenylphosphine | 0.75 mmol, 250 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropylazodicarboxylate | 0.58 mmol, 115 ul | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | 3-{3-[[2-Chloro-3-(trifluoromethyl)benzyl](2,2-diphenylethyl)amino]-propoxy}-4-methyl-benzoic acid hydrochloride salt | 150 mg, 54% yield | Cl.ClC1=C(CN(CCCOC=2C=C(C(=O)O)C=CC2C)CC(C2=CC=CC=C2)C2=CC=CC=C2)C=CC=C1C(F)(F)F | InChI=1S/C33H31ClF3NO3.ClH/c1-23-16-17-26(32(39)40)20-30(23)41-19-9-18-38(21-27-14-8-15-29(31(27)34)33(35,36)37)22-28(24-10-4-2-5-11-24)25-12-6-3-7-13-25;/h2-8,10-17,20,28H,9,18-19,21-22H2,1H3,(H,39,40);1H
